US08008505B2
4.1 3-Benzotriazol-1-yl-2-cyclohexyl-3-oxo-propionic acid ethyl ester
A solution of 2-cyclohexyl-malonic acid monoethyl ester (2.9 g, 14 mmol; CAS Reg. No. 147596-63-2) in thionyl chloride (29 ml) was heated under reflux conditions for 2 h. The solvent was removed under reduced pressure to give chlorocarbonyl-cyclohexyl-acetic acid ethyl ester. 1,2,3-Benzotriazole (1.47 g, 12 mmol) was dissolved at ambient temperature under an argon atmosphere in CH2Cl2 (45 ml). Et3N (1.86 ml, 13 mmol) and a solution of chlorocarbonyl-cyclohexyl-acetic acid ethyl ester in CH2Cl2 (4 ml) was added. The reaction mixture was stirred at ambient temperature for 14 h, quenched with ice cold aqueous 2 N HCl and extracted two times with iPrOAc. The combined extracts were washed with ice water/1 N aqueous HCl solution, ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, iPrOAc/heptane) to give the title compound (1.05 g, 3.3 mmol; 25%) as yellow oil. MS: m/e=316.2 [M+H+].

reactant | 1,2,3-Benzotriazole | 12 mmol, 1.47 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | Et3N | 13 mmol, 1.86 ml | CCN(CC)CC | C6H15N
reactant | chlorocarbonyl-cyclohexyl-acetic acid ethyl ester | C(C)OC(C(C1CCCCC1)C(=O)Cl)=O | C11H17ClO3
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-Benzotriazol-1-yl-2-cyclohexyl-3-oxo-propionic acid ethyl ester | 3.3 mmol, 1.05 g, 25% | C(C)OC(C(C(=O)N1N=NC2=C1C=CC=C2)C2CCCCC2)=O | C17H21N3O3
